US08293919B2
A solution of sodium sulfite (680 mg, 5.40 mmol) in water (5 mL) was added to an acetone (5 mL) solution of 3,5-dimethylisoxazole-4-sulfonyl chloride (530 mg, 2.70 mmol). The mixture was heated to 80° C., then a solution of sodium carbonate (430 mg, 4.05 mmol) in water (5 ml) was added dropwise. The mixture was refluxed for 16 hours then evaporated to dryness. The residue was refluxed with ethanol (20 mL), the inorganics were removed by filtration. Evaporation of the filtrate afforded 500 mg of crude sodium 3,5-dimethylisoxazole-4-sulfinate. It was used in the next steps without further purification. 1H NMR (400 MHz, DMSO-d6): δ 2.37 (s, 3H) and 2.22 (s, 3H).

reactant | sodium sulfite | 5.40 mmol, 680 mg | S(=O)([O-])[O-].[Na+].[Na+]
reactant | acetone | 5 mL | CC(=O)C | C3H6O
reactant | 3,5-dimethylisoxazole-4-sulfonyl chloride | 2.70 mmol, 530 mg | CC1=NOC(=C1S(=O)(=O)Cl)C | C5H6ClNO3S
reactant | sodium carbonate | 4.05 mmol, 430 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 5 mL | O | H2O
solvent | water | 5 ml | O | H2O
product | sodium 3,5-dimethylisoxazole-4-sulfinate | 500 mg | CC1=NOC(=C1S(=O)[O-])C.[Na+] | InChI=1S/C5H7NO3S.Na/c1-3-5(10(7)8)4(2)9-6-3;/h1-2H3,(H,7,8);/q;+1/p-1
